US06452014B1
To a solution of 4-bromo-2-fluorobenzaldehyde (3.97 g, 18.8 mmol) in methanol (200 mL) was added p-toluenesulfonic acid monohydrate (357 mg, 1.88 mmol), and the mixture was heated to reflux for 4 h. Aqueous sodium carbonate (1 mol/L; 2 mL) was added, and the mixture was concentrated to a volume of ca. 50 mL and extracted with ether. The organic layer was washed with brine and dried on anhydrous sodium sulfate. The solvent was removed under reduced pressure to afford 4-bromo-1-dimethoxymethyl-2-fluorobenzene (4.56 g, 97%).

reactant | 4-bromo-2-fluorobenzaldehyde | 18.8 mmol, 3.97 g | BrC1=CC(=C(C=O)C=C1)F | C7H4BrFO
reactant | p-toluenesulfonic acid monohydrate | 1.88 mmol, 357 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium carbonate | 1 mol/L, 2 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | 200 mL | CO | CH4O
product | 4-bromo-1-dimethoxymethyl-2-fluorobenzene | 4.56 g, 97% | BrC1=CC(=C(C=C1)C(OC)OC)F | C9H10BrFO2
